US07820837B2
ethyl 8-hydroxy-2,3,4,5-tetrahydro-1-benzoxepine-4-carboxylate
Ethyl 8-(benzyloxy)-2,3-dihydro-1-benzoxepine-4-carboxylate (3.5 g) was dissolved in ethanol (50 mL), and the solution was subjected to catalytic reduction using 10% palladium on carbon (0.35 g) for 3 days. The catalyst was filtered off, and the solvent of the filtrate was evaporated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane) to give the title compound (2.7 g) as an oil.

reactant | Ethyl 8-(benzyloxy)-2,3-dihydro-1-benzoxepine-4-carboxylate | 3.5 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(CCO2)C(=O)OCC)C=C1 | C20H20O4
solvent | ethanol | 50 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 0.35 g | [Pd] | Pd
product | ethyl 8-hydroxy-2,3,4,5-tetrahydro-1-benzoxepine-4-carboxylate | 2.7 g | OC1=CC2=C(CC(CCO2)C(=O)OCC)C=C1 | C13H16O4
